US08895599B2
In 20 ml of methylene chloride was suspended 2.0 g (7.7 mmol) of 4-benzyloxy-3-methoxy benzoic acid. DMF (0.05 g) and thionyl chloride (0.68 ml) were added to this suspension. The mixture was stirred at 50° C. for 2 hours. At a temperature of 0° C., 20 ml of pyridine wherein 1.1 g (8.0 mmol) of 2-nitroaniline had been dissolved at room temperature was added dropwise to the mixture. The mixture was stirred for 2 hours at room temperature, and water was added thereto to extract the methylene chloride phase. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The crystals thus obtained were recrystallized using methylene chloride-hexane, thereby yielding 1.5 g of N-(2-nitrophenyl)-4-benzyloxy-3-methoxybenzamide crystals.

reactant | 4-benzyloxy-3-methoxy benzoic acid | 7.7 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)OC | C15H14O4
reactant | DMF | 0.05 g | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.68 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-nitroaniline | 8.0 mmol, 1.1 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-nitrophenyl)-4-benzyloxy-3-methoxybenzamide | 1.5 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)=O | C21H18N2O5
